US06743924B2
1,2,3-Triazole (1689 mg, 24.45 mmol), sodium iodide (2443 mg, 16.3 mmol) and sodium hydroxide (978 mg, 24.45 mmol) were added to t-amyl alcohol (6.5 ml), and the mixture was refluxed under stirring for 1 hour. 2-Chloro-1-phenylethanone (2520 mg, 16.3 mmol) was dissolved in t-amyl alcohol (13 ml) and added dropwise over 1 hour. The mixture was refluxed under stirring for 1 hour. The mixture was cooled to room temperature, toluene (50 ml) was added. The mixture was washed with water (50 ml×2), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/2→1/4) to give 1-phenyl-2-(1H-1,2,3-triazol-1-yl)ethanone (1.38 g) as brown crystals (yield 45%). 1-Phenyl-2-(2H-1,2,3-triazol-2-yl)ethanone (550 mg) was obtained as yellow crystals (yield 18%). 1-phenyl-2-(1H-1,2,3-triazol-1-yl)ethanone

reactant | 1,2,3-Triazole | 24.45 mmol, 1689 mg | N1N=NC=C1 | C2H3N3
reactant | sodium iodide | 16.3 mmol, 2443 mg | [I-].[Na+]
reactant | sodium hydroxide | 24.45 mmol, 978 mg | [OH-].[Na+]
reactant | 2-Chloro-1-phenylethanone | 16.3 mmol, 2520 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | t-amyl alcohol | 13 ml | C(C)(C)(CC)O | C5H12O
solvent | t-amyl alcohol | 6.5 ml | C(C)(C)(CC)O | C5H12O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-2-(1H-1,2,3-triazol-1-yl)ethanone | 1.38 g, yield 45% | C1(=CC=CC=C1)C(CN1N=NC=C1)=O | C10H9N3O
